US05723409
a) 2-Carboxy-nitrobenzenesulfonic acid
400.0 g (2.53 mol) of potassium permanganate are added in portions at 80° C. over a period of 2 h to a solution of 106.0 g (0.40 mol) of 2-methyl-5-nitrobenzenesulfonic acid and 80.0 g (0.58 mol) of potassium carbonate in 1300 ml of water. The reaction temperature is maintained at between 80° and 95° C.

reactant | potassium permanganate | 2.53 mol, 400.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 2-methyl-5-nitrobenzenesulfonic acid | 0.40 mol, 106.0 g | CC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)O | C7H7NO5S
reactant | potassium carbonate | 0.58 mol, 80.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1300 ml | O | H2O
product | 2-Carboxy-nitrobenzenesulfonic acid | C(=O)(O)C1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)O | C7H5NO7S
